US09302996B2
40% Diethyl azodicarboxylate-toluene solution (9.54 mL) was added to a tetrahydrofuran (40 mL) solution containing 4-bromophenol (2.0 g), methyl hydroxypivalate (2.77 g) and triphenylphosphine (5.49 g), and the mixture was stirred at 70° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10) to obtain methyl 3-(4-bromophenoxy)-2,2-dimethylpropanoate (3.2 g).

reactant | Diethyl azodicarboxylate toluene | 9.54 mL | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
reactant | 4-bromophenol | 2.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | methyl hydroxypivalate | 2.77 g | OCC(C(=O)OC)(C)C | C6H12O3
reactant | triphenylphosphine | 5.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | methyl 3-(4-bromophenoxy)-2,2-dimethylpropanoate | 3.2 g | BrC1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C12H15BrO3
